US07091237B2
3-(dimethylamino)-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one
A mixture of 4′-(trifluoromethyl)acetophenone (9.8 g) and N-(1,1-dimethoxyethyl)-N,N-dimethylamine (8.2 g) was heated at 112° C. overnight, under nitrogen. The reaction mixture was cooled and concentrated giving an orange solid. Trituration with diethyl ether gave the title compound as a yellow solid

reactant | 4′-(trifluoromethyl)acetophenone | 9.8 g | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | N-(1,1-dimethoxyethyl)-N,N-dimethylamine | 8.2 g | COC(C)(OC)N(C)C | C6H15NO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(dimethylamino)-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one | CN(C(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C13H14F3NO
